US07557103B2
B. 8-(1-Ethyl-propyl)-2,6-dimethyl-3-(3-methyl-thieno[2,3-c]pyridin-2-yl)-imidazo[1,2-b]pyridazine
149 mg of 3-Methyl-thieno[2,3-c]pyridine (1.0 mmol) is dissolved in 3.0 ml of dry THF and cooled to −78° C. 0.48 ml of n-BuLi 2.5M in hexane (1.2 mmol) is added at −78° C. and stirred at −78° C. for 10 min and room temperature for 10 min. The reaction vessel is cooled to −78° C. again and 2.6 ml of 0.5M ZnCl2 in THF (1.3 mmol) is added at −78° C. and stirred at room temperature for 15 min. 274 mg of 8-(1-ethyl-propyl)-3-iodo-2,6-dimethyl-imidazo[1,2-b]pyridazine (2151431) (0.8 mmol) and 41 mg of PdCl2(pddf) (0.05 mmol) are added and the tube is capped. The tube is heated at 80° C. for 3 days. The reaction is quenched by NH4Claq. and extracted by CH2Cl2, dried over Na2SO4 and evaporated. The crude product is applied onto a silica-gel chromatography column (Hexane:AcOEt:2 M NH3 in MeOH=20:4:1) to give 131 mg of the title compound. Yield 45%. mass spectrum (m/e): 365 (M+1).

reactant | 3-Methyl-thieno[2,3-c]pyridine | 1.0 mmol, 149 mg | CC1=CSC2=CN=CC=C21 | C8H7NS
reactant | n-BuLi | 2.5M, 0.48 ml | [Li]CCCC
reactant | hexane | 1.2 mmol | CCCCCC | C6H14
reactant | 8-(1-ethyl-propyl)-3-iodo-2,6-dimethyl-imidazo[1,2-b]pyridazine | 0.8 mmol, 274 mg | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)I | C13H18IN3
solvent | THF | 3.0 ml | C1CCOC1 | C4H8O
catalyst | ZnCl2 | 0.5M, 2.6 ml | [Cl-].[Cl-].[Zn+2]
solvent | THF | 1.3 mmol | C1CCOC1 | C4H8O
product | 8-(1-Ethyl-propyl)-2,6-dimethyl-3-(3-methyl-thieno[2,3-c]pyridin-2-yl)-imidazo[1,2-b]pyridazine | 131 mg, Yield 45% | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C2=C(C=1C(=CN=CC1)S2)C | C21H24N4S
